US07572809B2
Similar procedure as described in example 2c was used, starting from 5-Cyanomethyl-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid and 3-amino-5-methylpyrazole to give 6-(5-Methyl-1H-pyrazol-3-ylamino)-2,3-dihydro-7H-1,4-dioxa-7-aza-phenanthren-8-one. LC-MS: m/e 299 (MH+).

reactant | 5-Cyanomethyl-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid | C(#N)CC1=C(C=CC=2OCCOC21)C(=O)O | C11H9NO4
reactant | 3-amino-5-methylpyrazole | NC1=NNC(=C1)C | C4H7N3
product | 6-(5-Methyl-1H-pyrazol-3-ylamino)-2,3-dihydro-7H-1,4-dioxa-7-aza-phenanthren-8-one | CC1=CC(=NN1)NC1=CC2=C3OCCOC3=CC=C2C(N1)=O | C15H14N4O3
